US08871753B2
Step D: tert-Butyl [5-({5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)pyridin-3-yl]carbamate
A mixture of tert-butyl [5-({2-[(tert-butoxycarbonyl)amino]-5-nitrophenyl}ethynyl)pyridin-3-yl]carbamate (1.60 g, 3.52 mmol), methanol (37 mL), acetic acid (7.3 mL), water (3.7 mL) and iron (905 mg, 16.2 mmol) was stirred at 60° C. for 3 h. The reaction mixture was filtered through a pad of celite and washed with ethyl acetate and extracted with ethyl acetate once. The combined organic solutions were dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.40 g, 94%). LCMS calculated for C23H29N4O4(M+H)+: m/z=425.1.

reactant | tert-butyl [5-({2-[(tert-butoxycarbonyl)amino]-5-nitrophenyl}ethynyl)pyridin-3-yl]carbamate | 3.52 mmol, 1.60 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C#CC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C23H26N4O6
reactant | methanol | 37 mL | CO | CH4O
reactant | acetic acid | 7.3 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 16.2 mmol, 905 mg | [Fe] | Fe
solvent | water | 3.7 mL | O | H2O
product | tert-Butyl [5-({5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)pyridin-3-yl]carbamate | 1.40 g, 94% | NC=1C=CC(=C(C1)C#CC=1C=C(C=NC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C23H28N4O4
